US05817690
1-(2-Chloroethoxy)-4-fluoro-3-aminobenzene
A solution of 1-(2-chloroethoxy)-2,6-dibromo-4-fluoro-3-nitrobenzene (73.2 g, 0.19 mol) in ethanol (1.1 L) containing 7.3 g of 10% palladium on carbon was hydrogenated at 40 psi for 5 days. The catalyst was filtered and the solvent was removed. The residue was dissolved in diethyl ether (300 mL) and washed with saturated aqueous sodium carbonate (200 mL). The organic layer separated and washed with water, dried over anhydrous magnesium sulfate, filtered, and the solvent removed to afford an oil which solidies to afford 32.5 g (90.0%) a dark solid: mp 42°-43° C.; MS EI m/e 189/191 (M+); 1H NMR (CDCl3) δ 3.40-3.60 (2H, bs, NH2), 3.77 (2H, d, J=6 Hz), 4.14 (2H, d, J=6 Hz), 6.19-6.23 (1H, m), 6.36 (1H, dd, J=7, 3 Hz), 6.88 (1H, dd, J=11, 9 Hz).

reactant | 1-(2-chloroethoxy)-2,6-dibromo-4-fluoro-3-nitrobenzene | 0.19 mol, 73.2 g | ClCCOC1=C(C(=C(C=C1Br)F)[N+](=O)[O-])Br | C8H5Br2ClFNO3
solvent | ethanol | 1.1 L | C(C)O | C2H6O
catalyst | palladium on carbon | 7.3 g | [Pd] | Pd
product | 1-(2-Chloroethoxy)-4-fluoro-3-aminobenzene | 32.5 g, 90.0% | ClCCOC1=CC(=C(C=C1)F)N | C8H9ClFNO
